US09371333B2
2-Amino-4-(3,4,5-trifluoro-phenyl)-4H-benzo[h]chromene-3-carbonitrile (7)
1-Naphthol (170 mg, 1.2 mmol), 3,4,5-trifluorobenzaldehyde (160 mg, 1 mmol) and malononitrile (66 mg, 1 mmol) were taken in 7 ml ethanol at room temperature, charged with piperidine (50 μl) and then stirred at 80° C. under LC-MS control till the reaction was complete. The reaction mixture was cooled down to room temperature, diluted with water to about 15 ml and stirred for about 1 h room temperature. The solids were collected by filtration, washed with 60% aq. ethanol and dried under high vacuum to yield the title compound (284 mg, 0.81 mmol, 81%).

reactant | 1-Naphthol | 1.2 mmol, 170 mg | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | 3,4,5-trifluorobenzaldehyde | 1 mmol, 160 mg | FC=1C=C(C=O)C=C(C1F)F | C7H3F3O
reactant | malononitrile | 1 mmol, 66 mg | C(CC#N)#N | C3H2N2
reactant | piperidine | 50 μl | N1CCCCC1 | C5H11N
solvent | ethanol | 7 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-Amino-4-(3,4,5-trifluoro-phenyl)-4H-benzo[h]chromene-3-carbonitrile | 0.81 mmol, 284 mg, 81% | NC=1OC2=C3C(=CC=C2C(C1C#N)C1=CC(=C(C(=C1)F)F)F)C=CC=C3 | C20H11F3N2O
